US04279903
Example 1--Methyl 2-cyano-3-(2-thienyl)acrylate (1)
A solution of 1.0 ml of piperidine in 10 ml of dioxane was added carefully to a stirred solution of 33.65 g thiophene-2-carboxaldehyde and 29.7 g of methyl cyanoacetate in 40 ml of dioxane. On standing the reaction mixture overnight at room temperature a crystalline precipitate was obtained which was filtered off, washed with cold dioxane and dried in vacuo to give 1, as a solid, mp 104°-106° C.

reactant | piperidine | 1.0 ml | N1CCCCC1 | C5H11N
reactant | thiophene-2-carboxaldehyde | 33.65 g | S1C(=CC=C1)C=O | C5H4OS
reactant | methyl cyanoacetate | 29.7 g | C(#N)CC(=O)OC | C4H5NO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 1--Methyl 2-cyano-3-(2-thienyl)acrylate | C(#N)C(C(=O)OC)=CC=1SC=CC1 | C9H7NO2S
